US04057543
A mixture of 1004 parts of crude sarsasaponin, 1560 parts of isopropanol, 225 parts of water and 298 parts of concentrated hydrochloric acid is heated at reflux for 2 hours. Then, an additional 166 parts of concentrated hydrochloric acid dissolved in 400 parts of water is added and refluxing continued for a further 1.5 hour. The reaction mixture is diluted to 12,000 parts by volume with water and ice and the resulting precipitate collected, washed with water and air-dried to afford crude sarsasapogenin in an 89% yield. This crude material is dissolved in toluene with warming, treated with 190 parts of alumina, 45 parts of charcoal, and filtered hot. The toluene solution is then cooled to room temperature and refiltered. The toluene is removed in vacuo to leave a volume of about 1,000 parts. This solution is diluted with n-hexane to about 3,500 parts by volume causing the separation of a dark precipitate. The solution is filtered, treated with charcoal, warmed to about 60° C., and filtered through diatomaceous earth under vacuum. Cooling affords crystals which are separated, washed successively with 1,500 parts by volume of the mother liquors and 1,000 parts of n-hexane and dried in a steam oven. Recrystallization from a mixture of acetone and n-hexane affords sarsasapogenin, identical to the product of Example 1.

reactant | sarsasaponin | C[C@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC[C@H]6[C@@]5(CC[C@@H](C6)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO[C@H]8[C@@H]([C@H]([C@@H]([C@H](O8)CO)O)O)O)O[C@H]9[C@@H]([C@@H]([C@H]([C@@H](O9)C)O)O)O)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)C)C)C)OC1 | C51H84O22
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | CCCCCC | C6H14
product | sarsasapogenin | 89% yield | C[C@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC[C@H]6[C@@]5(CC[C@@H](C6)O)C)C)C)OC1 | C27H44O3
